US06906067B2
3-Amino-N-ethyl-4-methyl-benzamide
4-methyl-3-nitro-benzoyl chloride (1.0 g, 5.0 mmol) was dissolved in DCM, and the solution was cooled to 0° C. Ethyl amine (2.0 M in THF, 5.0 mL, 10 mmol) was added dropwise to the acid chloride, and the reaction stirred at 0° C. for 5 min. The ice bath was removed and reaction continued to stir for 3. The solution was washed with brine, dried (Na2SO4), and concentrated in vacuo. The resulting aniline (0.75 g) was used without further purification.

reactant | 4-methyl-3-nitro-benzoyl chloride | 5.0 mmol, 1.0 g | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | Ethyl amine | 10 mmol, 2.0 M, 5.0 mL | C(C)N | C2H7N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Amino-N-ethyl-4-methyl-benzamide | NC=1C=C(C(=O)NCC)C=CC1C | C10H14N2O
